US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (3.1 g), 4-aminophenoxy-acetic acid hydrochloride (2.17 g) (prepared by reduction of 4-nitrophenoxyacetic acid using hydrogen and 10% palladium charcoal in a similar manner to Example C1 followed by treatment with 5M hydrochloric acid and then evaporation) and absolute ethanol (30 ml) was boiled under reflux for 4 hours. The mixture was cooled to ambient temperature and filtered to give ethyl 4-(6-ethoxy-3-ethoxycarbonyl-7-methyl-1,8-naphthyridin-4-ylamino)phenoxyacetate hydrochloride, m.p. 192°-194° C. Active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 3.1 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 4-aminophenoxy-acetic acid hydrochloride | 2.17 g | Cl.NC1=CC=C(OCC(=O)O)C=C1
reactant | 4-nitrophenoxyacetic acid | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 5M | Cl | ClH
catalyst | palladium charcoal | [Pd] | Pd
product | ethyl 4-(6-ethoxy-3-ethoxycarbonyl-7-methyl-1,8-naphthyridin-4-ylamino)phenoxyacetate hydrochloride | Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=CC=C(OCC(=O)OCC)C=C1 | InChI=1S/C24H27N3O6.ClH/c1-5-30-20-12-18-22(19(24(29)32-7-3)13-25-23(18)26-15(20)4)27-16-8-10-17(11-9-16)33-14-21(28)31-6-2;/h8-13H,5-7,14H2,1-4H3,(H,25,26,27);1H
